US05747516
Step A: Preparation of 2,2-Dimethyl-N-(2-methylphenyl) hydrazine carboxamide
o-Tolyl isocyanate (10.0 g) was dissolved in 75 mL toluene under N2. The solution was cooled to 5° C. and to this was slowly added a solution in toluene of 1,1-dimethylhydrazine (5.7 mL). After addition, the ice-bath was removed and the resulting slurry allowed to stir an additional 10 minutes. The solid was filtered off rinsing successively with hexane, a small amount of 20% diethylether/hexane, then hexanes again. This afforded 11.1 g (77%) of the title compound of Step A. 1 H NMR (CDCl3) δ8.1 (bs,1H), 7.94 (d,1H), 7.21-7.15 (m,3H), 6.99 (t,1H), 5.23 (bs,1H), 2.63 (s,6H) 2.27 (s,3H).

reactant | o-Tolyl isocyanate | 10.0 g | C=1(C(=CC=CC1)N=C=O)C | C8H7NO
reactant | 1,1-dimethylhydrazine | 5.7 mL | CN(N)C | C2H8N2
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
product | 2,2-Dimethyl-N-(2-methylphenyl) hydrazine carboxamide | CN(NC(=O)NC1=C(C=CC=C1)C)C | C10H15N3O
